US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-(9-pentylthiononyl)thiochroman
To a solution of 7-methoxy-3-(4-methoxyphenyl)-3-methyl-4-(9-pentylthiononyl)thiochroman (230 mg, 0.435 mmol) in dry dichloromethane (20 ml) was added dropwise 1M solution of boron tribromide in dichloromethane (3.04 ml, 3.04 mmol) at -78° C. and stirred at the same temperature for one hour. Then the reaction mixture was warmed to room temperature and stirring was continued for additional 10 hours. The reaction mixture was quenched with water and then diluted with ethyl acetate. The organic layer was washed with saturated sodium hydrogen sulfide solution and water, dried over magnesium sulfate, filtered and evaporated. The concentrate was subjected to flash silica gel chromatography (hexane:ethyl acetate=9:1) to obtain 178 mg (yield: 82%) of the title compound as a colorless oil.

reactant | 7-methoxy-3-(4-methoxyphenyl)-3-methyl-4-(9-pentylthiononyl)thiochroman | 0.435 mmol, 230 mg | COC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OC)CCCCCCCCCSCCCCC | C32H48O2S2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3.04 mmol, 3.04 ml | ClCCl | CH2Cl2
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-(9-pentylthiononyl)thiochroman | 178 mg, yield: 82% | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCCSCCCCC | C30H44O2S2
